US07282588B2
4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid
Following the procedure described for Intermediate 6 with ethyl 4-bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid and 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole provided title compound. ESMS [M+H]+: 378.2

reactant | ethyl 4-bromo-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | C(C)N1C(=CC=2C1=NC=CC2Br)C(=O)O | C10H9BrN2O2
reactant | 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H22BN3O4
product | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C(=O)O)C2=CC=C(C=C2)[N+](=O)[O-] | C19H15N5O4
